US07429598B2
To a stirred solution of 2-fluoro-5-methoxyaniline (35.15 g, 249 mmol) in acetic acid (99 mL) and water (177 mL) at 35° C. was added potassium cyanate (40 g, 0.49 mol) in water (170 mL) over 20 minutes under N2. The mixture was stirred at 40° C. for 20 min and at 18 to 20° C. for 2 h, and then quenched into water (500 mL). The crude product was filtered, washed with water (1.2 L), heptane (50 mL) and slurred in a mixture of tert-butylmethylether (100 mL) and ethyl acetate (5 mL) for 5 minutes at ambient temperature. The product was filtered, washed with tert-butylmethylether (30 mL) and dried in vacuo at 40° C. to give N-(2-Fluoro-5-methoxyphenyl)urea (31.75 g, 69%) as a light-brown solid.

reactant | 2-fluoro-5-methoxyaniline | 249 mmol, 35.15 g | FC1=C(N)C=C(C=C1)OC | C7H8FNO
reactant | potassium cyanate | 0.49 mol, 40 g | [O-]C#N.[K+]
solvent | acetic acid | 99 mL | C(C)(=O)O | C2H4O2
solvent | water | 177 mL | O | H2O
solvent | water | 170 mL | O | H2O
product | N-(2-Fluoro-5-methoxyphenyl)urea | 31.75 g, 69% | FC1=C(C=C(C=C1)OC)NC(=O)N | C8H9FN2O2
